US07932284B2
2-Fluoro-4-(6-nitro-1H-indol-3-yl)-benzonitrile (9F)
4-(1-Benzenesulfonyl-6-nitro-1H-indol-3-yl)-2-fluoro-benzonitrile from 1-benzenesulfonyl-3-bromo-6-nitro-1H-indole, 7, and 3-fluoro-4-cyanophenylboronic acid using Method AA: Pd2(dba)3, [(t-Bu3)PH]BF4, K2CO3, THF, H2O. Purify by precipitation from EtOAc/hexanes. Remove the benzenesulfonyl protecting group using TBAF and THF as described for 4-(6-nitro-1H-indol-3-yl)-benzonitrile (9) below. LRMS (API ES−)=280.0 (M−1).

reactant | 4-(1-Benzenesulfonyl-6-nitro-1H-indol-3-yl)-2-fluoro-benzonitrile | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C2=CC=C(C=C12)[N+](=O)[O-])C1=CC(=C(C#N)C=C1)F | C21H12FN3O4S
reactant | 1-benzenesulfonyl-3-bromo-6-nitro-1H-indole | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C2=CC=C(C=C12)[N+](=O)[O-])Br | C14H9BrN2O4S
reactant | 3-fluoro-4-cyanophenylboronic acid | FC=1C=C(C=CC1C#N)B(O)O | C7H5BFNO2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd2(dba)3 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | H2O | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 2-Fluoro-4-(6-nitro-1H-indol-3-yl)-benzonitrile | FC1=C(C#N)C=CC(=C1)C1=CNC2=CC(=CC=C12)[N+](=O)[O-] | C15H8FN3O2
